US05604227
To a stirred solution of sodium hydroxide (0.070 g, 1.8 mM) in methanol (8.5 mL) was added 5,7-dichloro-2H-3,1-benzoxazine -2,4(1H)-dione (4.13 g, 17.8 mM). The reaction mixture was stirred at 55° C. for 2 hr, allowed to cool to room temperature and concentrated. The residue was diluted with water and the resulting mixture extracted with ethyl acetate. The combined extracts were dried (MgSO4), filtered and concentrated to leave the methyl 2-amino-4,6-dichlorobenzoate (3.61 g, 92.1%) as a brown solid; MS(CI): 220 (M+H).

reactant | sodium hydroxide | 1.8 mM, 0.070 g | [OH-].[Na+]
reactant | 5,7-dichloro-2H-3,1-benzoxazine -2,4(1H)-dione | 17.8 mM, 4.13 g | ClC1=CC(=CC2=C1C(OC(N2)=O)=O)Cl | C8H3Cl2NO3
solvent | methanol | 8.5 mL | CO | CH4O
product | methyl 2-amino-4,6-dichlorobenzoate | 3.61 g, 92.1% | NC1=C(C(=O)OC)C(=CC(=C1)Cl)Cl | C8H7Cl2NO2
